US07371747B2
A solution of triisopropylsilyl thiol (1.904 g, 10.0 mmol) in tetrahydrofuran (10 mL) was added to a stirred suspension of potassium hydride in tetrahydrofuran (10 mL). The resulting suspension was then added to a stirred solution of 4-bromobenzyl alcohol (1.87 g, 10 mmol) and tetrakis[triphenylphosphine]palladium(0) (0.350 g, 0.30 mmol) in benzene (25 mL). The reaction mixture was stirred at reflux for 2 h under a nitrogen atmosphere. Ethyl acetate (200 mL) was added and the solution washed with water. The organic phase was dried with magnesium sulfate, filtered, and concentrated by rotary evaporation. The crude product was purified by silica gel chromatography using a gradient of 0% to 2% ethyl acetate in dichloromethane to yield (4-triisopropylsilanylsulfanyl-phenyl)-methanol as a colorless oil.

reactant | triisopropylsilyl thiol | 10.0 mmol, 1.904 g | C(C)(C)[Si](C(C)C)(C(C)C)S | C9H22SSi
reactant | potassium hydride | [H-].[K+]
reactant | 4-bromobenzyl alcohol | 10 mmol, 1.87 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
catalyst | tetrakis[triphenylphosphine]palladium(0) | 0.30 mmol, 0.350 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | (4-triisopropylsilanylsulfanyl-phenyl)-methanol | C(C)(C)[Si](C(C)C)(C(C)C)SC1=CC=C(C=C1)CO | C16H28OSSi
